### PR TITLE
[Merged by Bors] - feat(Data.Finset.Antidiagonal): generalize `Finset.Nat.antidiagonal`

### LINKED ISSUE #7917: Create `has_antidiagonal` class
Per @digama0 's suggestion [here](https://github.com/leanprover-community/mathlib/pull/7595#issuecomment-840117801), we should create a class for antidiagonals on types.

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
We define a type class `Finset.HasAntidiagonal A` which contains a function
`antidiagonal : A → Finset (A × A)` such that `antidiagonal n`
is the Finset of all pairs adding to `n`, as witnessed by `mem_antidiagonal`.

When `A` is a canonically ordered add monoid with locally finite order
this typeclass can be instantiated with `Finset.antidiagonalOfLocallyFinite`.
This applies in particular when `A` is `ℕ`, more generally or `σ →₀ ℕ`,
or even `ι →₀ A`  under the additional assumption `OrderedSub A`
that make it a canonically ordered add monoid.
(In fact, we would just need an `AddMonoid` with a compatible order,
finite `Iic`, such that if `a + b = n`, then `a, b ≤ n`,
and any finiteness condition would be OK.)

For computational reasons it is better to manually provide instances for `ℕ`
and `σ →₀ ℕ`, to avoid quadratic runtime performance.
These instances are provided as `Finset.Nat.instHasAntidiagonal` and `Finsupp.instHasAntidiagonal`.
This is why `Finset.antidiagonalOfLocallyFinite` is an `abbrev` and not an `instance`.

This definition does not exactly match with that of `Multiset.antidiagonal`
defined in `Mathlib.Data.Multiset.Antidiagonal`, because of the multiplicities.
Indeed, by counting multiplicities, `Multiset α` is equivalent to `α →₀ ℕ`,
but `Finset.antidiagonal` and `Multiset.antidiagonal` will return different objects.
For example, for `s : Multiset ℕ := {0,0,0}`, `Multiset.antidiagonal s` has 8 elements
but `Finset.antidiagonal s` has only 4.

```lean
def s : Multiset ℕ := {0, 0, 0}
#eval (Finset.antidiagonal s).card -- 4
#eval Multiset.card (Multiset.antidiagonal s) -- 8
```

## TODO

* Define `HasMulAntidiagonal` (for monoids).
  For `PNat`, we will recover the set of divisors of a strictly positive integer.

This closes #7917

Co-authored by: María Inés de Frutos-Fernández <mariaines.dff@gmail.com>
and Eric Wieser <efw27@cam.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237486.20antidiagonal/near/395886479)

### CODE REVIEW

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+
+variable {μ : Type _} [CanonicallyOrderedAddMonoid μ] [LocallyFiniteOrder μ] [DecidableEq μ]
+
+variable {ι : Type _} [DecidableEq ι] [DecidableEq (ι → μ)]
+
+namespace Finset
+
+/-- The Finset of pairs of elements of `μ` with sum `n` -/
+def antidiagonal (n : μ) : Finset (μ × μ) :=
+  Finset.filter (fun uv => uv.fst + uv.snd = n) (Finset.product (Iic n) (Iic n))
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:51]: Should we have a `HasAntidiagonal` typeclass? That would allow us to have a O(n) rather than O(n^2) implementation, and I can see this being executed / reduced in combinatorics.

What types `μ` do we care about in practice?

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+This definition does not exactly match with that of `Multiset.antidiagonal` which is
+defined in `Mathlib.Data.Multiset.Antidiagonal`, because of the multiplicities.
+Indeed, by counting multiplicities, `Multiset α` is equivalent to `α →₀ ℕ`,
+but `Finset.antidiagonal` and `Multiset.antidiagonal` will return different objects.
+For example, for `s : Multiset ℕ := {0,0,0}`, `Multiset.antidiagonal s` has 8 elements
+but `Finset.antidiagonal s` has only 4.
+
+-- def s : Multiset ℕ := {0, 0, 0}
+-- #eval (Finset.antidiagonal s).card -- 4
+-- #eval Multiset.card (Multiset.antidiagonal s) -- 8
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:33]:
````suggestion
```lean
def s : Multiset ℕ := {0, 0, 0}
#eval (Finset.antidiagonal s).card -- 4
#eval Multiset.card (Multiset.antidiagonal s) -- 8
```
````

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:53]: 1. For the `HasAntidiagonal` typeclass. Yes, gladly, if that allows to have a faster implementation, but I don't know what to change exactly.

2. We will use for a type`μ` the type of finitely supported functions from some type to Nat.

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:70]: To be precise, we will use piAntidiagonal to express the coefficients of the products of power series and prove some results such as : if a power series as a nilpotent coefficient as constant term, then its powers converge to 0 in a strong sense (= simple convergence on coefficients, discrete topology on the target, meaning than each coefficient of f ^ n is eventually 0 when n goes to infinity)

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+
+This is mostly taken from a mathlib3 file of Bhavik Mehta,
+https://leanprover-community.github.io/mathlib_docs/wiedijk_100_theorems/partition.html
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean]: (because we didn't know it was in mathlib4)

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 4]
```diff
@@ -0,0 +1,185 @@
...
+
+```lean
+def s : Multiset ℕ := {0, 0, 0}
+#eval (Finset.antidiagonal s).card -- 4
+#eval Multiset.card (Multiset.antidiagonal s) -- 8
+```
+
+This is mostly taken from a file of Bhavik Mehta,
+Archive/Wiedijk100Theorems/Partition.lean,
+where `piAntidiagonal` was called `cut`
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:41]: I think you should remove this comment entirely, and replace `cut` with your new definition!

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 5]
```diff
@@ -0,0 +1,185 @@
...
+open scoped BigOperators
+
+open Finset Function
+
+/-- The class of monoids with an antidiagonal -/
+class HasMulAntidiagonal (μ : Type*) [Monoid μ] where
+  /-- The antidiagonal function -/
+  (antidiagonal : μ → Finset (μ × μ))
+  /-- A pair belongs to `antidiagonal n` iff the product of its components is equal to `n` -/
+  (mem_antidiagonal : ∀ (n : μ) (a : μ × μ), a ∈ antidiagonal n ↔ a.fst * a.snd = n)
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:53]:
```suggestion
  /-- The antidiagonal function -/
  antidiagonal : μ → Finset (μ × μ)
  /-- A pair belongs to `antidiagonal n` iff the product of its components is equal to `n` -/
  mem_antidiagonal : ∀ (n : μ) (a : μ × μ), a ∈ antidiagonal n ↔ a.fst * a.snd = n
```

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 6]
```diff
@@ -0,0 +1,185 @@
...
+Archive/Wiedijk100Theorems/Partition.lean,
+where `piAntidiagonal` was called `cut`
+-/
+
+open scoped BigOperators
+
+open Finset Function
+
+/-- The class of monoids with an antidiagonal -/
+class HasMulAntidiagonal (μ : Type*) [Monoid μ] where
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:49]: I think probably this should live in the `Finset` namespace, given your comments about multiplicity.

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:41]: You mean, in the Archive file ?

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 7]
```diff
@@ -0,0 +1,185 @@
...
+  [CanonicallyOrderedAddMonoid μ]
+  [LocallyFiniteOrder μ] [DecidableEq μ]
+
+variable {ι : Type _} [DecidableEq ι] [DecidableEq (ι → μ)]
+
+namespace Finset
+
+/-- In a canonically ordered add monoid, the finset of pairs of elements of `μ` with sum `n` -/
+def antidiagonal (n : μ) : Finset (μ × μ) :=
+  Finset.filter (fun uv => uv.fst + uv.snd = n) (Finset.product (Iic n) (Iic n))
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:72]: Here's how this becomes restated using the new typeclasses:
```suggestion
/-- In a canonically ordered add monoid, the antidiagonal can be constructed by filtering.

Note that this is not an instance, as for some times a more efficient algorithm is available. -/
abbrev antidiagonalOfLocallyFinite : HasAntidiagonal μ :=
  antidiagonal n := Finset.filter (fun uv => uv.fst + uv.snd = n) (Finset.product (Iic n) (Iic n))
  mem_antidiagonal n := sorry
```

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:53]: OK. I thought the parentheses were part of the notation.

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:72]: at end of line 73, is it `:=` or `where`?

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean]: that required a lot of prefixes `antidiagonalOfLocallyFinite` later on, but that worked.

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Antidiagonal.lean:41]: Yes!

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 8]
```diff
@@ -0,0 +1,183 @@
...
+    · rw [mem_Iic, ← h]
+      apply single_le_sum _ hi
+      simp only [zero_le, implies_true]
+    · ext x
+      dsimp only
+      rw [dite_eq_ite, ite_eq_left_iff, eq_comm]
+      exact hf x
+
+theorem piAntidiagonal_equiv_antidiagonal (n : μ) :
+    Equiv.finsetCongr (Equiv.boolArrowEquivProd _) (piAntidiagonal univ n) = antidiagonalOfLocallyFinite.antidiagonal n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:118]: Here you should be taking `[HasAntidiagonal μ]` instead of relying on a specific instance.

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean]: yep, and at two other places below as well!

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 9]
```diff
@@ -0,0 +1,185 @@
...
+  /-- A pair belongs to `antidiagonal n` iff the product of its components is equal to `n` -/
+  mem_antidiagonal : ∀ (n : μ) (a : μ × μ), a ∈ antidiagonal n ↔ a.fst * a.snd = n
+
+/-- The class of additive monoids with an antidiagonal -/
+class HasAntidiagonal (μ : Type*) [AddMonoid μ] where
+  /-- The antidiagonal function -/
+  antidiagonal : μ → Finset (μ × μ)
+  /-- A pair belongs to `antidiagonal n` iff the sum of its components is equal to `n` -/
+  mem_antidiagonal : ∀ (n : μ) (a : μ × μ), a ∈ antidiagonal n ↔ a.fst + a.snd = n
+
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:63]: `export 
```suggestion

export HasMulAntidiagonal (antidiagonal mem_antidiagonal)
```
to allow access to the short names

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 10]
```diff
@@ -38,6 +44,12 @@ theorem mem_antidiagonal {n : ℕ} {x : ℕ × ℕ} : x ∈ antidiagonal n ↔ x
   rw [antidiagonal, mem_def, Multiset.Nat.mem_antidiagonal]
 #align finset.nat.mem_antidiagonal Finset.Nat.mem_antidiagonal
 
+/-- `Finset.Nat.antidiagonal` coincides with `Finset.antidiagonal` -/
+lemma antidiagonal_eq_antidiagonal (n : ℕ) :
+    Finset.Nat.antidiagonal n = Finset.antidiagonalOfLocallyFinite.antidiagonal n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/NatAntidiagonal.lean]: This should instead be:

* A `Subsingleton (HasAntidiagonal u)` instance
* Replacing `nat.antidiagonal` with `instance : HasAntidiagonal ℕ`

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/NatAntidiagonal.lean]: I did that, but I have two questions :
* for the moment, this instance (and the one for Finsupp.HasAntidiagonal) are in their respective files ; maybe they should belong to Mathlib.Data.Finset.Antidiagonal
* My use of the Subsingleton instance is probably awkward
*

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean]: I did that, but there was a conflict of the decidable instances. I managed to pass through, but this is ugly and  I don't believe we wish to leave that as is.
(In presence of `hf : f in piAntidiagonal s n` with bad decidable instances, I added `suffices : hf' : f in piAntidiagonal s n`, which has the good instances and which  I proved using `convert hf`.

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:48]: Done

File: Mathlib/Data/Finsupp/Antidiagonal.lean [hunk 11]
```diff
@@ -50,6 +50,16 @@ theorem mem_antidiagonal {f : α →₀ ℕ} {p : (α →₀ ℕ) × (α →₀
...
 
+/-- Finsupp.antidiagonal coincides with Finset.antidiagonalOfLocallyFinite.antidiagonal -/
+lemma antidiagonal_eq_antidiagonal (f : α →₀ ℕ) :
+    antidiagonal f = Finset.antidiagonalOfLocallyFinite.antidiagonal f := by
+  ext p
+  simp only [mem_antidiagonal, Finset.antidiagonalOfLocallyFinite.mem_antidiagonal]
+
+/-- Antidiagonal for Nat valued functions with finite support -/
+abbrev HasAntidiagonal : Finset.HasAntidiagonal (α →₀ ℕ) :=
+  ⟨antidiagonal, @mem_antidiagonal α _⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Antidiagonal.lean:61]: This one should be an `instance`, and it should be *instead* of the `antidiagonal` definition above. The idea here is to unify all the antidiagonals under a single function name (the one from the typeclass).

File: Mathlib/NumberTheory/Bernoulli.lean [hunk 12]
```diff
@@ -88,7 +88,7 @@ theorem bernoulli'_spec (n : ℕ) :
 #align bernoulli'_spec bernoulli'_spec
 
 theorem bernoulli'_spec' (n : ℕ) :
-    (∑ k in antidiagonal n, ((k.1 + k.2).choose k.2 : ℚ) / (k.2 + 1) * bernoulli' k.1) = 1 := by
+    (∑ k in Nat.antidiagonal n, ((k.1 + k.2).choose k.2 : ℚ) / (k.2 + 1) * bernoulli' k.1) = 1 := by
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Bernoulli.lean:91]: Note that after you make the typeclass change above, you'll be able to revert all of these, as there will be no `Nat.antidiagonal`.

File: Mathlib/Data/Finsupp/Antidiagonal.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Antidiagonal.lean]: A question : `mem_antidiagonal` was tagged with `@[simp]`. How do restore this behaviour?

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 13]
```diff
@@ -28,19 +34,21 @@ namespace Nat
...
+  antidiagonal n := ⟨Multiset.Nat.antidiagonal n, Multiset.Nat.nodup_antidiagonal n⟩
+  mem_antidiagonal n xy := by
+    rw [mem_def, Multiset.Nat.mem_antidiagonal]
+
+/-- `Finset.Nat.antidiagonal` coincides with `Finset.antidiagonalOfLocallyFinite.antidiagonal` -/
+lemma antidiagonal_eq_antidiagonal (n : ℕ):
+    antidiagonal n = Finset.antidiagonalOfLocallyFinite.antidiagonal n := by
+    suffices : Finset.Nat.instHasAntidiagonalNatAddMonoid = Finset.antidiagonalOfLocallyFinite
+    rw [← this]
+    apply Subsingleton.elim
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:47]: This can now be removed entirely, I think the subsingleton instance alone is enough.

**Review by eric-wieser — COMMENTED** [review]
Looking again, it would probably makes sense to put the `antidiagonal` and `piAntidiagonal` parts of this work in separate PRs; it looks like the former alone would result in a lot of deduplication.

File: Mathlib/Data/Finset/NatAntidiagonal.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/NatAntidiagonal.lean]: I think they're best in their respective files.

File: Mathlib/Data/Finsupp/Antidiagonal.lean (hunk 11 above)
Comment (eric-wieser) [reply Mathlib/Data/Finsupp/Antidiagonal.lean]: `attribute [simp] mem_antidiagonal` immediately after the `export` line

**Comment by AntoineChambert-Loir** [comment]
> Looking again, it would probably makes sense to put the `antidiagonal` and `piAntidiagonal` parts of this work in separate PRs; it looks like the former alone would result in a lot of deduplication.

We'll do that, but the core of our PR was `piAntidiagonal`…

**Comment by AntoineChambert-Loir** [comment]
should the prefix `Finset.Nat` of docs#Finset.Nat.antidiagonal_succ  be changed to something else? `Finset.natAntidiagonal_succ`?  (that would be painful to change all this)

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 14]
```diff
@@ -0,0 +1,225 @@
...
+open scoped BigOperators
+
+open Function
+
+/-- The class of monoids with an antidiagonal -/
+class HasMulAntidiagonal (μ : Type*) [Monoid μ] where
+  /-- The antidiagonal function -/
+  antidiagonal : μ → Finset (μ × μ)
+  /-- A pair belongs to `antidiagonal n` iff the product of its components is equal to `n` -/
+  mem_antidiagonal : ∀ (n : μ) (a : μ × μ), a ∈ antidiagonal n ↔ a.fst * a.snd = n
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:52]:
```suggestion
  mem_antidiagonal {n : μ} {a : μ × μ} : a ∈ antidiagonal n ↔ a.fst * a.snd = n
```
which matches the explicitness of the existing `Nat` lemma, and should make the diff smaller at the call sites as a result

Comment (eric-wieser) [reply Mathlib/Data/Finset/Antidiagonal.lean:52]: Oh, I guess I meant to comment this on `HasAntidiagonal` below.

**Comment by eric-wieser** [comment]
> should the prefix `Finset.Nat` of docs#Finset.Nat.antidiagonal_succ be changed to something else? `Finset.natAntidiagonal_succ`? (that would be painful to change all this)

I think leaving those lemmas where they are for now is fine. In a later PR, we could reame them to `Nat.finsetAntidiagonal_succ`, which I think is consistent with where we have the lemmas about `Finset.Icc` on `Nat`.

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 15]
```diff
@@ -0,0 +1,225 @@
...
+open Function
+
+/-- The class of monoids with an antidiagonal -/
+class HasMulAntidiagonal (μ : Type*) [Monoid μ] where
+  /-- The antidiagonal function -/
+  antidiagonal _ : Finset (μ × μ)
+  /-- A pair belongs to `antidiagonal n` iff the product of its components is equal to `n` -/
+  mem_antidiagonal {n : μ} {a : μ × μ} : a ∈ antidiagonal n ↔ a.fst * a.snd = n
+
+export HasMulAntidiagonal (antidiagonal mem_antidiagonal)
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:54]: This is either going to cause a clash, or be ignored. I'd suggest you drop this multiplicative version from this PR to prevent it growing too much, and leave a TODO comment instead that references something about divisors and PNat.

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 16]
```diff
@@ -0,0 +1,225 @@
...
+  simp_rw [this]
+  ext n xy
+  rw [ha, hb]
+
+/-- The class of additive monoids with an antidiagonal -/
+class HasAntidiagonal (μ : Type*) [AddMonoid μ] where
+  /-- The antidiagonal function -/
+  antidiagonal : μ → Finset (μ × μ)
+  /-- A pair belongs to `antidiagonal n` iff the sum of its components is equal to `n` -/
+  mem_antidiagonal : ∀ (n : μ) (a : μ × μ), a ∈ antidiagonal n ↔ a.fst + a.snd = n
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:73]:
```suggestion
  mem_antidiagonal {n : μ} {a : μ × μ} : a ∈ antidiagonal n ↔ a.fst + a.snd = n
```

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean]: done now (I had done it only on HasMulAntidiagonal…)

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean]: I removed the multiplicative version

File: Mathlib/Data/Polynomial/HasseDeriv.lean [hunk 17]
```diff
@@ -228,12 +228,12 @@ section
 open AddMonoidHom Finset.Nat
 
 theorem hasseDeriv_mul (f g : R[X]) :
-    hasseDeriv k (f * g) = ∑ ij in antidiagonal k, hasseDeriv ij.1 f * hasseDeriv ij.2 g := by
+    hasseDeriv k (f * g) = ∑ ij in Finset.antidiagonal k, hasseDeriv ij.1 f * hasseDeriv ij.2 g := by
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/HasseDeriv.lean:231]: `open Finset (antidiagonal)` on the line above would save the need to add namespacing here.

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean]: I could adjust the Archive file using piAntidiagonal.

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Archive/Wiedijk100Theorems/Partition.lean
Comment (eric-wieser) [inline Archive/Wiedijk100Theorems/Partition.lean:1]: I assume all the changes to this file can be reverted too?

Comment (AntoineChambert-Loir) [reply Archive/Wiedijk100Theorems/Partition.lean:1]: not all the changes. I'm sorry I forgot do to that.

Comment (eric-wieser) [reply Archive/Wiedijk100Theorems/Partition.lean:1]: I can push a fix if you like

File: Mathlib/Combinatorics/Catalan.lean [hunk 18]
```diff
@@ -192,7 +192,7 @@ theorem treesOfNumNodesEq_succ (n : ℕ) :
 theorem mem_treesOfNumNodesEq {x : Tree Unit} {n : ℕ} :
     x ∈ treesOfNumNodesEq n ↔ x.numNodes = n := by
   induction x using Tree.unitRecOn generalizing n <;> cases n <;>
-    simp [treesOfNumNodesEq_succ, Nat.succ_eq_add_one, *]
+    simp [treesOfNumNodesEq_succ, Nat.succ_eq_add_one, mem_antidiagonal, *]
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Catalan.lean:195]: I pushed a change that made `mem_antidiagonal` a `simp` lemma (to match the `Nat.mem_antidiagonal` it replaced), so you should be able to remove all the changes of this form

Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Catalan.lean:195]: what is simp[..., *] ?

File: Archive/Wiedijk100Theorems/Partition.lean
Comment (AntoineChambert-Loir) [reply Archive/Wiedijk100Theorems/Partition.lean:1]: you were faster than me anyway…

File: Mathlib/Combinatorics/Catalan.lean (hunk 18 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Catalan.lean:195]: I don't know how to detect them, anyway.

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 19]
```diff
@@ -853,11 +855,16 @@ theorem coeff_inv_aux [DecidableEq σ] (n : σ →₀ ℕ) (a : R) (φ : MvPower
...
+          ∑ x in antidiagonal n,
+            if x.2 < n then coeff R x.1 φ * coeff R x.2 (inv.aux a φ) else 0 := by
+  change inv.aux a φ n = _
+  nth_rewrite 1 [inv.aux]
+  split_ifs
+  · rfl
+  · apply congr_arg₂ _ rfl
+    apply Finset.sum_congr
+    rw [Subsingleton.elim (Classical.decEq σ) ‹DecidableEq σ›]
+    intros; simp only [dite_eq_ite]; rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:867]: I suspect this might not be needed any more

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 20]
```diff
@@ -0,0 +1,112 @@
...
+    [H1 : HasAntidiagonal μ] [H2 : HasAntidiagonal μ] :
+    H1.antidiagonal = H2.antidiagonal := by
+  have : H1 = H2 := by
+    apply Subsingleton.elim
+  rw [this]
+
+lemma HasAntidiagonal.mem_antidiagonal' (μ : Type*) [AddMonoid μ]
+    [HasAntidiagonal μ] (n : μ) (p : μ × μ):
+    p ∈ antidiagonal n ↔ p.fst + p.snd = n := mem_antidiagonal
+
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:96]: This lemma looks useless to me

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 21]
```diff
@@ -0,0 +1,112 @@
...
+-- The goal of these two functions is to allow to rewrite antidiagonal/mem_antidiagonal
+-- when the decidability instances obsucate Lean
+-- Are they useful at all?
+lemma HasAntidiagonal.antidiagonal_rfl (μ : Type*) [AddMonoid μ]
+    [H1 : HasAntidiagonal μ] [H2 : HasAntidiagonal μ] :
+    H1.antidiagonal = H2.antidiagonal := by
+  have : H1 = H2 := by
+    apply Subsingleton.elim
+  rw [this]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:91]: This probably isn't all that useful, `congr!` can solve it.

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 20 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:96]: I deleted it.

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 21 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:91]: Indeed!

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:867]: Well, `rfl` doesn't work for proving this lemma.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:867]: While it is true that after the `change` and `rw`, `cong!` concludes (but relatively slowly).

**Comment by AntoineChambert-Loir** [comment]
If I understand correctly, you managed to prove lemmas about docs#Nat.Antidiagonal in the generality of docs#HasAntidiagonal.

**Comment by eric-wieser** [comment]
Yes; but more than that, I merged the `Finsupp` and `Nat` versions of many of the lemmas.

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 22]
```diff
@@ -0,0 +1,195 @@
...
+is the Finset of all pairs adding to `n`, as witnessed by `mem_antidiagonal`.
+
+When `A` is a canonically ordered add monoid with locally finite order
+(for example, taking `A` to be `ℕ`, more generally or `σ →₀ ℕ`),
+this typeclass can be instantiated with `Finset.antidiagonalOfLocallyFinite`.
+This definition applies more generally to `ι →₀ A`
+under the additional assumption `OrderedSub A` that make it a canonically ordered add monoid.
+In fact, we just need an `AddMonoid` with a compatible order,
+finite `Iic`, such that if `a + b = n`, then `a, b ≤ n`,
+and any finiteness condition would be OK.
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Antidiagonal.lean:25]: I think there's some duplication in this paragraph.

**Comment by jcommelin** [comment]
@AntoineChambert-Loir This PR seems to be converging. Could you please update the commit message of the PR (in the topmost post)?

File: Mathlib/Data/Finset/Antidiagonal.lean [hunk 23]
```diff
@@ -0,0 +1,195 @@
...
+import Mathlib.Data.Finset.Basic
+import Mathlib.Data.Finsupp.Defs
+import Mathlib.Data.Finsupp.Interval
+import Mathlib.Algebra.Order.Sub.Defs
+
+/-! # Antidiagonal with values in general types
+
+We define a type class `Finset.HasAntidiagonal A` which contains a function
+`antidiagonal : A → Finset (A × A)` such that `antidiagonal n`
+is the Finset of all pairs adding to `n`, as witnessed by `mem_antidiagonal`.
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Antidiagonal.lean:16]:
```suggestion
is the finset of all pairs adding to `n`, as witnessed by `mem_antidiagonal`.
```

File: Mathlib/Data/Finset/Antidiagonal.lean (hunk 22 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Antidiagonal.lean:25]: I changed it slightly.

**Comment by AntoineChambert-Loir** [comment]
@jcommelin , I updated the initial blurb of the commit (just a copy-paste of what is on top of the file).

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
